US05698584
Step 1: 3-Diazo-2,4-(3H, 5H)-furandione
To tetronic acid (5.00 g, 49.9 mmol) in CH2Cl2 (250 mL) at 0° C. were added Et3N (8.3 mL, 59.6 mmol) and tosyl azide (7.37 g, 37.4 mmol). After a period of 2 h at r.t., the reaction mixture was partitioned between NH4OAc (25%) and CH2Cl2. The organic phase was dried over Na2SO4, filtered and evaporated under reduced pressure. The resulting mixture was purified by flash chromatography (20% to 35% EtOAc in Hexane) to provide 1.4 g of the title compound as a white solid.

reactant | tetronic acid | 49.9 mmol, 5.00 g | C1C(=O)COC1=O | C4H4O3
reactant | Et3N | 59.6 mmol, 8.3 mL | CCN(CC)CC | C6H15N
reactant | tosyl azide | 37.4 mmol, 7.37 g | S(=O)(=O)(C1=CC=C(C)C=C1)N=[N+]=[N-] | C7H7N3O2S
solvent | CH2Cl2 | 250 mL | C(Cl)Cl | CH2Cl2
product | 3-Diazo-2,4-(3H, 5H)-furandione | 1.4 g | [N+](=[N-])=C1C(OCC1=O)=O | C4H2N2O3
